* FQP50N06 ELECTRICAL MODEL (TO-220 N-Channel DMOSFET)
* ------------------------
.SUBCKT  FQP50N06  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={3.9*{-0.00072*TEMP+1.018}}  KP={47*{-0.00025*TEMP+1.00625}}
+  THETA=0.056    VMAX=7.5E4   LEVEL=3)
Cgs     1    3    1250p
Rd     20    4    5.6m TC=0.0067
Dds     3    4    DDS
.MODEL     DDS    D(BV={60*{0.00096*TEMP+0.976}}   M=0.5  CJO=375p  
+    VJ=0.8*{0.0022*TEMP+1.055})
Dbody   3   20    DBODY
.MODEL DBODY  D(IS=1.0E-13   N=0.98   RS=6.5m   EG=1.17    TT=52n)
Ra      4    2    5.2m TC=0.0067
Rs      3    5    0.2m
Ls      5    30   1.0n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    1280p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.67   CJO=1280p   VJ=0.8)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS FQP50N06
